US04255575
Following essentially the same procedure but substituting methyl 5-[1-hydroxy-2-[4-(2-methylphenyl)-1-piperazinyl]ethyl]-2-methoxybenzoate hydrochloride for the methyl 5-[1-hydroxy-2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl]-2-methoxybenzoate hydrochloride above results in the preparation of 5-[1-hydroxy-2-[4-(2-methylphenyl)-1-piperazinyl]ethyl]-2-methoxy-N-methylbenzamide hydrochloride, having a m.pt. of 226°-7° C. (dec.).

reactant | methyl 5-[1-hydroxy-2-[4-(2-methylphenyl)-1-piperazinyl]ethyl]-2-methoxybenzoate hydrochloride | Cl.OC(CN1CCN(CC1)C1=C(C=CC=C1)C)C=1C=CC(=C(C(=O)OC)C1)OC
reactant | methyl 5-[1-hydroxy-2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl]-2-methoxybenzoate hydrochloride | Cl.OC(CN1CCN(CC1)C1=C(C=CC=C1)OC)C=1C=CC(=C(C(=O)OC)C1)OC
product | 5-[1-hydroxy-2-[4-(2-methylphenyl)-1-piperazinyl]ethyl]-2-methoxy-N-methylbenzamide hydrochloride | Cl.OC(CN1CCN(CC1)C1=C(C=CC=C1)C)C=1C=CC(=C(C(=O)NC)C1)OC | InChI=1S/C22H29N3O3.ClH/c1-16-6-4-5-7-19(16)25-12-10-24(11-13-25)15-20(26)17-8-9-21(28-3)18(14-17)22(27)23-2;/h4-9,14,20,26H,10-13,15H2,1-3H3,(H,23,27);1H
